US06410562B1
2-(3-Chloro-6-(naphthalen-1-yl)benzo[b]thiophen-2-yl)-4,5-dihydro-1H-imidazole (X=Cl, Y=6-(naphthalen-1-yl))
A solution of 60 mg (0.19 mmol) of 2-(6-bromo-3-chlorobenzo[b]thiophen-2-yl)-4,5dihydro-1H-imidazole, 69 mg (0.4 mmol) of naphthalene-1-boronic acid, and 23 mg (0.02 mmol) of Pd(PPh3)4 in a mixture of 2.5 ml dioxane and 0.4 ml 2M aqueous sodium carbonate solution was heated at 95° C. for 24 h. After cooling it was concentrated to dryness under reduced pressure, and the title compound was obtained from the residue by column chromatography on silica gel with dichloromethane/ethanolic ammonia gradient.

reactant | 2-(6-bromo-3-chlorobenzo[b]thiophen-2-yl)-4,5dihydro-1H-imidazole | 0.19 mmol, 60 mg | BrC=1C=CC2=C(SC(=C2Cl)C=2NCCN2)C1 | C11H8BrClN2S
reactant | naphthalene-1-boronic acid | 0.4 mmol, 69 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | sodium carbonate | 2M, 0.4 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-Chloro-6-(naphthalen-1-yl)benzo[b]thiophen-2-yl)-4,5-dihydro-1H-imidazole | ClC=1C2=C(SC1C=1NCCN1)C=C(C=C2)C2=CC=CC1=CC=CC=C21 | C21H15ClN2S
